US07645784B2
Part A: Synthesis of 2-bromo-N-(3-trifluoromethyl-phenyl)-acetamide Bromoacetyl bromide (1.41 g, 7 mmol) was added under stirring to a solution of 3-trifluoromethyl-aniline (0.77 g, 4.8 mmol) and triethylamine (0.83 mL, 8.2 mmol) in THF (60 mL) at 0° C. The reaction was stirred for 3 h at 0° C. and the solvent was evaporated. The crude product was purified by flash chromatography (Silica, heptane/ethyl acetate 1:1) to afford 2-bromo-N-(3-trifluoromethyl-phenyl)-acetamide (1.35 g, 100%). Mass spectrum (ESI) m/z: 280.0, 282.0. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.93 (s, 2H), 7.31 (d, J=8.1 Hz, 1H), 7.44 (t, J=7.8 Hz, 1H), 7.63 (d, J=8.1 Hz, 1H), 7.93 (s, 1H), 10.57 (s, 1H).

reactant | 2-bromo-N-(3-trifluoromethyl-phenyl)-acetamide Bromoacetyl bromide | 7 mmol, 1.41 g | BrCC(=O)Br.BrCC(=O)NC1=CC(=CC=C1)C(F)(F)F
reactant | 3-trifluoromethyl-aniline | 4.8 mmol, 0.77 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | triethylamine | 8.2 mmol, 0.83 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-bromo-N-(3-trifluoromethyl-phenyl)-acetamide | 1.35 g, 100% | BrCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C9H7BrF3NO
